2177-10-26 07:47:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
   Had rising WBC (60.1 <-- 459 )
   OGT placed due to difficulty passing NGT though nares, no gag reflex
   Given 1L NS x 2 without improvement of renal function
   Lactate stable
   Started on lactulose --> had several bowel movements
   C. diff pending
   Urine legionella negative
   History obtained from Patient, Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   angioedema;
   Angiotensin Receptor Antagonist
   angioedema;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2177-10-24**] 10:00 PM
   Vancomycin - [**2177-10-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-26**] 06:11 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2177-10-25**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-10-25**] 09:02 PM
   Other medications:
   Albuterol nebs
   Vanco q 48 hours
   Seroquel
   Lactulose TID
   Ativan prn
   Levofloxacin 750 q 48 hours
   Zosyn
   Nephrocaps
   Epo
   Haldol prn
   Hydroxyurea
   Ferrous sulfate 325 daily
   Aspirin 81 daily
   Allopurinol
   Levothyroxine 125 mcg daily
   MVI
   Prochlorperazine prn
   Simvastatin
   Pentoxifilene
   Vitamin C
   Famotidine
   HSQ
   Bisacodyl prn
   Colace
   Senna
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-26**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 61 (58 - 77) bpm
   BP: 127/45(66) {101/35(52) - 153/84(91)} mmHg
   RR: 24 (19 - 33) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
             Total In:
                                                                  4,394 mL
                                                                    276 mL
   PO:
             TF:
                                                                    375 mL
   IVF:
                                                                  3,819 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                    880 mL
   Urine:
                                                                  1,065 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,079 mL
                                                                   -604 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///15/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles :
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   453 K/uL
   8.2 g/dL
   127 mg/dL
   2.4 mg/dL
   15 mEq/L
   4.5 mEq/L
   90 mg/dL
   107 mEq/L
   138 mEq/L
   27.6 %
   60.1 K/uL
        [image002.jpg]
                            [**2177-10-25**]  03:47 AM
                            [**2177-10-25**]  05:26 AM
                            [**2177-10-25**]  03:38 PM
                            [**2177-10-25**]  10:09 PM
                            [**2177-10-26**]  03:28 AM
   WBC
   45.9
   60.1
   Hct
   27.5
   27.6
   Plt
   427
   453
   Cr
   2.3
   2.5
   2.4
   2.4
   TropT
   0.05
   0.05
   TCO2
   19
   Glucose
   104
   127
   147
   127
   Other labs: PT / PTT / INR:20.1/33.5/1.9, CK / CKMB /
   Troponin-T:291/3/0.05, ALT / AST:38/66, Alk Phos / T Bili:185/1.7,
   Differential-Neuts:95.0 %, Band:0.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:2.0 mmol/L, Albumin:3.5 g/dL, LDH:457 IU/L, Ca++:8.7
   mg/dL, Mg++:2.7 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   72 M with myelofibrosis and extramedullary/liver hematopoiesis, PVD,
   recurrent cellulitis; admit with acute on chronic altered mental status
   and pneumonia.
   .
   # Pneumonia.  Fever, leukocytosis, infiltrate on CXR.  O2 sats
   excellent and hemodynamically stable.  CAP vs. HCAP (lives in nursing
   home and frequent hospital exposure) vs. aspiration.  Localized likely
   to RLL.  Also consider atypicals including legionella, virals.
   - vanc/zosyn/levoflox for atypicals
   - Sputum culture pending
   - f/u blood cultures
   - speech and swallow for ?aspiration
   - consider tap of R effusion if enlarges (right now small on lung cuts
   of CT abdomen).
   .
   # Fever.  Pneumonia as above; also consider other infectious sources
   (urine, c.diff/stool, flu, other abdominal).
   -          Broad spectrum antibiotics to start; f/u culture data
   including urine, blood, c.diff, virals.
   -          f/u final read of abdominal CT
   .
   # Altered mental status.  An ongoing issue for several months.  Sees
   outpatient neurobehavioral specialist.  Agitation prior to admission.
   Likely exacerbated by current infection. Other differential includes
   uremia from worsening renal failure; hepatic encephalopathy given
   chronic liver disease (though unclear if truly cirrhotic physiology).
   -          antipsychotics standing and as needed, place NGT. Per family
   haldol makes him hallucinate and only ativan works.  Restraints prn to
   prevent pulling tubes.
   -          trial of lactulose given liver disease.
   -          Treatment of infection.
   -          NGT.  Hold all PO intake for now; speech and swallow if
   mental status not improving or aspiration an ongoing concern.
   -          Frequent reorientation.
   -          Fall precautions.
   # Tachypnea.  RR consistently in high 20s.  O2 sats have been excellent
   on 2LNC.  [**Month (only) 51**] be tachypneic due metabolic acidosis  Metabolic acidosis
   worsened with lactulose.
   - monitor respiratory status, rate
   .
   # Cellulitis.  Bilat LEs with erythema, edema, warmth.  Scabs over legs
   as above.  Has bad PVD, seen vascular in the past as well as wound
   consult.  Last received clinda during last admit in late [**Month (only) 1148**].
   -          antibiotic course as above.
   -          Wound consult.
   -          Dry gauze to open areas for now.
   .
   # Leukocytosis.  Treating for pneumonia and cellultiis as above.  Also
   consider C.diff given history of this and recent clindamycin use,
   though no diarrhea.  Patient also with history of myelofibrois and
   extramedullary hematopoiesis.  Per hematologist, often tends to spike
   high WBC counts in times of stress and infection due to disordered cell
   production.
   -          antibiotics as above.
   -          Send c.diff; start metronidazole empirically if starts to
   have diarrhea.
   -          Heme primary team aware of admission to MICU; discuss with
   them if hydrea dose needs to be increased due to rising WBC
   -          Continue hydroxyurea.
   .
   # Myelofibrosis/anemia.  Discussed with heme.
   -          continue hydroxyurea via NGT
   -          Epogen weekly
   .
   # CHF, systolic dysfunction.  s/p 1.5 L in ED, ~1L here.
   -          hold BB and diuretic right now while acutely infected and
   not taking PO well.
   -          Not on ACEI or [**Last Name (un) **] due to angioedema.
   .
   # CKD. Baseline Cr of 2.0, now up to 2.4.  Likely pre-renal given urine
   lytes, concentrated urine.  Will hold lactulose so that dehydration is
   not worsening.  Minimal response yesterday to 2L NS.
   -                serum and urine lytes again this afternoon.
          -          Give [**1-5**]  liters today and recheck labs.
   .
   # Metabolic acidosis.  Worsening metabolic acidosis, likely secondary
   to worsening renal failure and to diarrhea from lactulose.  Lactate
   wnl.
   -          bolus, recheck chems this afternoon
   - hold lactulose
   - replete fluid
   .
   # Hepatitis. ?cirrhotic physiology with chronically elevated INR,
   AST>ALT; mildly elevated bilirubin (not seen in recent past).  Has
   ascites on imaging.  Thought to be due to infiltration of
   extramedullary hematopoeitic cells given severe myelofibrosis.  Mild
   improvement of mental status with lactulose.
   -                Hold lactulose due to dehyration
   -                should have outpatient liver referral.
   ICU Care
   Nutrition:
   Comments: nutren renal boluses
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2177-10-24**] 07:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2177-10-27 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2177-10-26**] 11:55 PM
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   angioedema;
   Angiotensin Receptor Antagonist
   angioedema;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-25**] 08:00 AM
   Piperacillin - [**2177-10-26**] 06:09 PM
   Levofloxacin - [**2177-10-26**] 09:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-27**] 05:57 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-10-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-26**] 09:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-27**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 60 (50 - 68) bpm
   BP: 112/37(55) {103/33(51) - 140/66(80)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  4,630 mL
                                                                  1,220 mL
   PO:
             TF:
                                                                    750 mL
                                                                    375 mL
   IVF:
                                                                  3,790 mL
                                                                    845 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                    680 mL
   Urine:
                                                                  1,760 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  2,470 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): x1, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   435 K/uL
   113 mg/dL
   2.3 mg/dL
   17 mEq/L
   4.4 mEq/L
   93 mg/dL
   111 mEq/L
   142 mEq/L
   29.4 %
   59.9 K/uL
        [image002.jpg]
                            [**2177-10-25**]  03:47 AM
                            [**2177-10-25**]  05:26 AM
                            [**2177-10-25**]  03:38 PM
                            [**2177-10-25**]  10:09 PM
                            [**2177-10-26**]  03:28 AM
                            [**2177-10-26**]  04:02 PM
                            [**2177-10-26**]  06:20 PM
                            [**2177-10-27**]  02:05 AM
   WBC
   45.9
   60.1
   62.9
   59.9
   Hct
   27.5
   27.6
   30.6
   29.4
   Plt
   427
   453
   482
   435
   Cr
   2.3
   2.5
   2.4
   2.4
   2.5
   2.4
   2.3
   TropT
   0.05
   0.05
   TCO2
   19
   Glucose
   104
   127
   147
   127
   161
   144
   113
   Other labs: PT / PTT / INR:19.0/30.2/1.8, CK / CKMB /
   Troponin-T:291/3/0.05, ALT / AST:39/59, Alk Phos / T Bili:148/1.3,
   Differential-Neuts:96.6 %, Band:0.0 %, Lymph:2.4 %, Mono:0.9 %, Eos:0.0
   %, Lactic Acid:2.0 mmol/L, Albumin:3.4 g/dL, LDH:348 IU/L, Ca++:9.0
   mg/dL, Mg++:2.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   72 M with myelofibrosis and extramedullary/liver hematopoiesis, PVD,
   recurrent cellulitis; admit with acute on chronic altered mental status
   and pneumonia.
   > Pneumonia.  Fever, leukocytosis, infiltrate on CXR.  O2 sats
   excellent and hemodynamically stable.  CAP vs. HCAP (lives in nursing
   home and frequent hospital exposure) vs. aspiration.  Localized likely
   to RLL.  Also consider atypicals including legionella, virals.
   - vanc/zosyn/levoflox for atypicals
   - Sputum culture if can produce
   - f/u blood cultures
   - speech and swallow for ?aspiration
   - consider tap of R effusion if enlarges (right now small on lung cuts
   of CT abdomen).
   > Fever.  Pneumonia as above; also consider other infectious sources
   (urine, c.diff/stool, flu, other abdominal).
   -          Broad spectrum antibiotics to start; f/u culture data
   including urine, blood, c.diff, virals.
   -          f/u final read of abdominal CT
   .
   > Altered mental status.  An ongoing issue for several months.  Sees
   outpatient neurobehavioral specialist.  Agitation prior to admission.
   Likely exacerbated by current infection. Other differential includes
   uremia from worsening renal failure; hepatic encephalopathy given
   chronic liver disease (though unclear if truly cirrhotic physiology).
   -          antipsychotics standing and as needed, place NGT. Prefer to
   avoid benzos, but per family haldol makes him hallucinate and only
   ativan works.  Restraints prn to prevent pulling tubes.
   -          trial of lactulose given liver disease.
   -          Treatment of infection.
   -          NGT.  Hold all PO intake for now; speech and swallow if
   mental status not improving or aspiration an ongoing concern.
   -          Frequent reorientation.
   -          Fall precautions.
   > Tachypnea.  RR consistently in low 30s.  O2 sats have been
   excellent.  [**Month (only) 51**] be tachypneic due metabolic acidosis.
   - ABG prn, recheck lytes this afternoon.
   > Cellulitis.  Bilat LEs with erythema, edema, warmth.  Scabs over legs
   as above.  Has bad PVD, seen vascular in the past as well as wound
   consult.  Last received clinda during last admit in late [**Month (only) 1148**].
   -          antibiotic course as above.
   -          Wound consult.
   -          Dry gauze to open areas for now.
   >Leukocytosis.  Treating for pneumonia and cellultiis as above.  Also
   consider C.diff given history of this and recent clindamycin use,
   though no diarrhea.  Patient also with history of myelofibrois and
   extramedullary hematopoiesis.  Per hematologist, often tends to spike
   high WBC counts in times of stress and infection due to disordered cell
   production.
   -          antibiotics as above.
   -          Send c.diff; start metronidazole empirically if starts to
   have diarrhea.
   -          Heme primary team aware of admission to MICU.
   -          Continue hydroxyurea.
   > Myelofibrosis/anemia.  Discussed with heme.
   -          continue hydroxyurea via NGT
   -          Epogen weekly
   .
   >CHF, systolic dysfunction.  s/p 1.5 L in ED, ~1L here.
   -          hold BB and diuretic right now while acutely infected and
   not taking PO well.
   -          Not on ACEI or [**Last Name (un) **] due to angioedema.
   .
   > CKD.  At approximate baseline creatinine last night, but with some
   worsening today.  Got NS in ED.  Urine lytes looked dry.
   -                serum and urine lytes again this afternoon.
          -          Give another liter today and recheck labs.
   .
   > Metabolic acidosis.  Mild yesterday but worsening today.  AG now 16.
   Lactate slightly up.  ?related to slight worsening of renal failure.
   -          bolus, recheck chems this afternoon
   >Hepatitis. ?cirrhotic physiology with chronically elevated INR,
   AST>ALT; mildly elevated bilirubin (not seen in recent past).  Has
   ascites on imaging.  Thought to be due to infiltration of
   extramedullary hematopoeitic cells given severe myelofibrosis.
   -                trial of lactulose as above
   -                should have outpatient liver referral.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2177-10-24**] 07:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2177-10-27 08:01:00 Physician Resident Progress Note
Chief Complaint: agitation
   24 Hour Events:
 EKG - At [**2177-10-26**] 11:55 PM
   ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND RSV prelimarily (-)
   IVF bolus with NS 10am, 2pm, worsening phosphate/K with stable anion
   gap, 1L LR 10pm
   Continued on lactulose --> several BMs
   C. diff (-), urine legionella (-)
   Tele trigger for "bradycardia" to 30s - bedside pulse at 60, EKG at 60,
   lead misplacement, corrected with lead readjustment
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   angioedema;
   Angiotensin Receptor Antagonist
   angioedema;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-25**] 08:00 AM
   Piperacillin - [**2177-10-26**] 06:09 PM
   Levofloxacin - [**2177-10-26**] 09:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-27**] 05:57 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-10-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-26**] 09:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-27**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 60 (50 - 68) bpm
   BP: 112/37(55) {103/33(51) - 140/66(80)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  4,630 mL
                                                                  1,484 mL
   PO:
             TF:
                                                                    750 mL
                                                                    375 mL
   IVF:
                                                                  3,790 mL
                                                                  1,109 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                    680 mL
   Urine:
                                                                  1,760 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  2,470 mL
                                                                    804 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   435 K/uL
   8.3 g/dL
   113 mg/dL
   2.3 mg/dL
   17 mEq/L
   4.4 mEq/L
   93 mg/dL
   111 mEq/L
   142 mEq/L
   29.4 %
   59.9 K/uL
        [image002.jpg]
                            [**2177-10-25**]  03:47 AM
                            [**2177-10-25**]  05:26 AM
                            [**2177-10-25**]  03:38 PM
                            [**2177-10-25**]  10:09 PM
                            [**2177-10-26**]  03:28 AM
                            [**2177-10-26**]  04:02 PM
                            [**2177-10-26**]  06:20 PM
                            [**2177-10-27**]  02:05 AM
   WBC
   45.9
   60.1
   62.9
   59.9
   Hct
   27.5
   27.6
   30.6
   29.4
   Plt
   427
   453
   482
   435
   Cr
   2.3
   2.5
   2.4
   2.4
   2.5
   2.4
   2.3
   TropT
   0.05
   0.05
   TCO2
   19
   Glucose
   104
   127
   147
   127
   161
   144
   113
   Other labs: PT / PTT / INR:19.0/30.2/1.8, CK / CKMB /
   Troponin-T:291/3/0.05, ALT / AST:39/59, Alk Phos / T Bili:148/1.3,
   Differential-Neuts:96.6 %, Band:0.0 %, Lymph:2.4 %, Mono:0.9 %, Eos:0.0
   %, Lactic Acid:2.0 mmol/L, Albumin:3.4 g/dL, LDH:348 IU/L, Ca++:9.0
   mg/dL, Mg++:2.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   72 M with myelofibrosis and extramedullary/liver hematopoiesis, PVD,
   recurrent cellulitis; admit with acute on chronic altered mental status
   and pneumonia.
   .
   # Pneumonia.  Fever, leukocytosis, infiltrate on CXR.  O2 sats
   excellent and hemodynamically stable.  CAP vs. HCAP (lives in nursing
   home and frequent hospital exposure) vs. aspiration.  Localized likely
   to RLL.  Also consider atypicals including legionella, virals.
   - vanc/zosyn/levoflox for atypicals
   - Sputum culture pending
   - f/u blood cultures
   - speech and swallow for ?aspiration
   - consider tap of R effusion if enlarges (right now small on lung cuts
   of CT abdomen).
   .
   # Fever.  Pneumonia as above; also consider other infectious sources
   (urine, c.diff/stool, flu, other abdominal).
   -          Broad spectrum antibiotics to start; f/u culture data
   including urine, blood, c.diff, virals.
   -          f/u final read of abdominal CT
   .
   # Altered mental status.  An ongoing issue for several months.  Sees
   outpatient neurobehavioral specialist.  Agitation prior to admission.
   Likely exacerbated by current infection. Other differential includes
   uremia from worsening renal failure; hepatic encephalopathy given
   chronic liver disease (though unclear if truly cirrhotic physiology).
   -          antipsychotics standing and as needed, place NGT. Per family
   haldol makes him hallucinate and only ativan works.  Restraints prn to
   prevent pulling tubes.
   -          trial of lactulose given liver disease.
   -          Treatment of infection.
   -          NGT.  Hold all PO intake for now; speech and swallow if
   mental status not improving or aspiration an ongoing concern.
   -          Frequent reorientation.
   -          Fall precautions.
   .
   # Tachypnea.  RR consistently in high 20s.  O2 sats have been excellent
   on 2LNC.  [**Month (only) 51**] be tachypneic due metabolic acidosis  Metabolic acidosis
   worsened with lactulose.
   - monitor respiratory status, rate
   .
   # Cellulitis.  Bilat LEs with erythema, edema, warmth.  Scabs over legs
   as above.  Has bad PVD, seen vascular in the past as well as wound
   consult.  Last received clinda during last admit in late [**Month (only) 1148**].
   -          antibiotic course as above.
   -          Wound consult.
   -          Dry gauze to open areas for now.
   .
   # Leukocytosis.  Treating for pneumonia and cellultiis as above.  Also
   consider C.diff given history of this and recent clindamycin use,
   though no diarrhea.  Patient also with history of myelofibrois and
   extramedullary hematopoiesis.  Per hematologist, often tends to spike
   high WBC counts in times of stress and infection due to disordered cell
   production.
   -          antibiotics as above.
   -          Send c.diff; start metronidazole empirically if starts to
   have diarrhea.
   -          Heme primary team aware of admission to MICU; discuss with
   them if hydrea dose needs to be increased due to rising WBC
   -          Continue hydroxyurea.
   .
   # Myelofibrosis/anemia.  Discussed with heme.
   -          continue hydroxyurea via NGT
   -          Epogen weekly
   .
   # CHF, systolic dysfunction.  s/p 1.5 L in ED, ~1L here.
   -          hold BB and diuretic right now while acutely infected and
   not taking PO well.
   -          Not on ACEI or [**Last Name (un) **] due to angioedema.
   .
   # CKD. Baseline Cr of 2.0, now up to 2.4.  Likely pre-renal given urine
   lytes, concentrated urine.  Will hold lactulose so that dehydration is
   not worsening.  Minimal response yesterday to 2L NS.
   -                serum and urine lytes again this afternoon.
          -          Give [**1-5**]  liters today and recheck labs.
   .
   # Metabolic acidosis.  Worsening metabolic acidosis, likely secondary
   to worsening renal failure and to diarrhea from lactulose.  Lactate
   wnl.
   -          bolus, recheck chems this afternoon
   - hold lactulose
   - replete fluid
   .
   # Hepatitis. ?cirrhotic physiology with chronically elevated INR,
   AST>ALT; mildly elevated bilirubin (not seen in recent past).  Has
   ascites on imaging.  Thought to be due to infiltration of
   extramedullary hematopoeitic cells given severe myelofibrosis.  Mild
   improvement of mental status with lactulose.
   -                Hold lactulose due to dehyration
   -                should have outpatient liver referral.
   ICU Care
   Nutrition:
   Comments: nutren pulmonary
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-24**] 07:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor